US08106043B2
tert-Butyl 3-(7-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)propyl(methyl)carbamate:
A suspension of tert-butyl methyl(3-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)propyl)carbamate (0.6 g, 1.633 mmol) in dry methanol (10 mL) was treated with Raney-Nickel (0.1 g, 1.633 mmol) followed by hydrazine hydrate (0.595 mL, 16.33 mmol) at room temperature. The resulting mixture was refluxed for 10 minutes in a pre-heated oil bath. The reaction was then brought to room temperature, filtered through a pad of Celite, and washed with methanol (3×10 mL). The combined methanol layers were evaporated, and the crude material was purified by flash column chromatography (5:95 (2M NH3 in MeOH):CH2Cl2) on silica gel to obtain title product (0.55 g, quantitative) as a brown syrup. 1H NMR (DMSO-d6) δ 6.46 (d, 1H, J=9.6 Hz), 6.25-6.21 (m, 2H), 4.44 (s, 2H), 3.32-3.28 (m, 2H), 3.19 (t, 2H, J=6.9 Hz), 3.04 (t, 2H, J=7.2 Hz), 3.00-2.97 (m, 2H), 2.77 (s, 3H), 1.74-1.62 (m, 2H), 1.38 (s, 9H); ESI-MS (m/z, %): 338 (MH+, 100), 337 (96), 282 (54).

reactant | tert-butyl methyl(3-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)propyl)carbamate | 1.633 mmol, 0.6 g | CN(C(OC(C)(C)C)=O)CCCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C17H25N3O4S
reactant | hydrazine hydrate | 16.33 mmol, 0.595 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
catalyst | Raney-Nickel | 1.633 mmol, 0.1 g | [Ni] | Ni
product | tert-Butyl 3-(7-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)propyl(methyl)carbamate | 0.55 g | NC=1C=CC2=C(SCCN2CCCN(C(OC(C)(C)C)=O)C)C1 | C17H27N3O2S
